US04786644
A solution of 2.0 g of 3-amino-5-methylisoxazole and 5.5 g of 1,2-dihydro-4-hydroxy-1-phenyl-3-quinolinecarboxylic acid, ethyl ester in 260 ml of toluene was refluxed for 10 hours in a soxhlet apparatus containing 10 g of 4 Å molecular sieves. Evaporation of the volatiles afforded a residue which was purified by means of high pressure liquid chromatography (silica gel: 3:1 ethyl acetate-hexane as the eluent) to yield 3.5 g (51%) of 1,2-dihydro-4-hydroxy-N-(5-methyl-3-isoxazolyl)-1-phenyl-3-quinolinecarboxamide. Recrystallization from dichloromethane afforded the analytical sample, m.p. 148°-150° C.

reactant | 3-amino-5-methylisoxazole | 2.0 g | NC1=NOC(=C1)C | C4H6N2O
reactant | 1,2-dihydro-4-hydroxy-1-phenyl-3-quinolinecarboxylic acid, ethyl ester | 5.5 g | OC1=C(CN(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)OCC | C18H17NO3
solvent | toluene | 260 ml | C1(=CC=CC=C1)C | C7H8
product | 1,2-dihydro-4-hydroxy-N-(5-methyl-3-isoxazolyl)-1-phenyl-3-quinolinecarboxamide | 3.5 g, 51% | OC1=C(CN(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)NC1=NOC(=C1)C | C20H17N3O3
